US04180515
Forty cubic centimeters (0.33 mol) of dimethyldichloro silane at 20° C. were placed in a 3-neck balloon-flask swept by a flow of nitrogen. Eighty cubic centimeters of toluene were added while shaking the mixture. The temperature was reduced to 5° C., then 0.33 mol of p-chlorophenylmagnesium chloride in 30 mn in the form of a solution in tetrahydrofurane (140 cubic centimeters) were added. Twenty cubic centimeters of toluene were added and the mixture was shaken for 2 hours 30 minutes. Then, 0.36 mol of vinylmagnesium chloride at 20 mn in the form of a solution in tetrahydrofurane (120 cubic centimeters) were added, the temperature being 25° C. at that time. Then the temperature of the reactive environment was changed and maintained for 2 hours. The reactive environment was cooled, the mixture was washed twice with 100 cubic centimeters of water, acidified with 5 cubic centimeters of HCl. Then, after decantation, the mixture was neutralized by means of sodium bicarbonate, dried, and 42 grams of a product containing (chromatography in the gaseous phase) 80 percent in terms of weight of p-chlorophenyldimethylvinylsilane (yield of 51.3 percent as compared to dimethylchlorosilane) was collected.

reactant | dimethyldichloro silane | 0.33 mol, Forty cubic centimeters | C[Si](Cl)(Cl)C | C2H6Cl2Si
reactant | toluene | Eighty cubic centimeters | C1(=CC=CC=C1)C | C7H8
reactant | p-chlorophenylmagnesium chloride | 0.33 mol | ClC1=CC=C(C=C1)[Mg]Cl
reactant | toluene | Twenty cubic centimeters | C1(=CC=CC=C1)C | C7H8
reactant | vinylmagnesium chloride | 0.36 mol | C(=C)[Mg]Cl
solvent | tetrahydrofurane | 140 cubic centimeters | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 120 cubic centimeters | O1CCCC1 | C4H8O
product | p-chlorophenyldimethylvinylsilane | yield of 51.3 percent | ClC1=CC=C(C=C1)[SiH2]C=C(C)C | C10H13ClSi
